US05183921
To E-α-hydroxyimino-2-phenoxyphenylacetic acid methyl ester (1.09 g, 0.004 mole) were added dried dimethylformamide (6 ml) and potassium hydroxide (0.29 g, 0.0044 mole) and the mixture was stirred at room temperature for 15 minutes. Then, dried toluene (6 ml) was added to the mixture, to this was further added dropwise dimethylsulfate (0.61 g, 0.0044 mole) under ice cooling. After completion of the addition, the mixture was stirred at room temperature for 2 hours. Then, ether (100 ml) was added, followed by washing with water three times. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain E-α-methoxyimino-2-phenoxyphenylacetic acid methyl ester (1.20 g, yield: 80.6%) as colorless crystals (melting point: 109°-110° C.).

reactant | E-α-hydroxyimino-2-phenoxyphenylacetic acid methyl ester | 0.004 mole, 1.09 g | COC(/C(=N/O)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H13NO4
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | potassium hydroxide | 0.0044 mole, 0.29 g | [OH-].[K+]
reactant | dimethylsulfate | 0.0044 mole, 0.61 g | COS(=O)(=O)OC | C2H6O4S
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | E-α-methoxyimino-2-phenoxyphenylacetic acid methyl ester | 1.20 g, yield: 80.6% | COC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C16H15NO4
